US04254119
To a solution of 7β-[2-methoxyimino-2-(2-chloroacetamido-5-chloro-4-thiazolyl)acetamido]-3-cephem-4-carboxylic acid diphenylmethyl ester (330 mg) in a mixture of ethanol (5 ml) and tetrahydrofuran (5 ml) is added thiourea (152 mg), and the mixture is stirred for 4 hours. After one night, the solution is stirred with 5% aqueous sodium hydrogen carbonate solution for 10 minutes, concentrated to remove organic solvents, and extracted with ethyl acetate. The residue is subjected to silica gel chromatography to give crude 7β-[2-methoxyimino-2-(2-amino-5-chloro-4-thiazolyl)acetamido]-3-cephem-4-carboxylic acid diphenylmethyl ester (273 mg), which is stirred with anisole (0.5 ml) and trifluoroacetic acid (0.5 ml) in dichloromethane (5 ml) under ice-cooling for 1.5 hours, evaporated and treated with ethyl ether and high porous polymer to give 7β-[2-methoxyimino-2-(2-amino-5-chloro-4-thiazolyl)acetamido]-3-cephem-4-carboxylic acid (164 mg). Yield: 76.7%. This product is identical with a sample prepared by another authentic route. Similarly prepared are compounds of Table 1.

reactant | 7β-[2-methoxyimino-2-(2-chloroacetamido-5-chloro-4-thiazolyl)acetamido]-3-cephem-4-carboxylic acid diphenylmethyl ester | 330 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=CCS[C@H]2N1C([C@H]2NC(C(C=2N=C(SC2Cl)NC(CCl)=O)=NOC)=O)=O | C28H23Cl2N5O6S2
reactant | thiourea | 152 mg | NC(=S)N | CH4N2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | anisole | 0.5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 7β-[2-methoxyimino-2-(2-amino-5-chloro-4-thiazolyl)acetamido]-3-cephem-4-carboxylic acid | 164 mg, Yield: 76.7% | CON=C(C(=O)N[C@H]1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C=1N=C(SC1Cl)N | C13H12ClN5O5S2
